US09210927B2
Preparation of (E)-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)hydrazine (CI75)
To a stirred solution of (E)-2-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)phenylamino) isoindoline-1,3-dione (0.16 g, 0.31 mmol) in EtOH (5 mL), was added hydrazine hydrate (0.076 g, 1.52 mmol), and the reaction mixture was heated at 85° C. for 1 h. The reaction mixture was cooled to ambient temperature and filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a solid (0.08 g, 66%) which was carried on to the next step without further purification.

reactant | (E)-2-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)phenylamino) isoindoline-1,3-dione | 0.31 mmol, 0.16 g | FC(C(/C=C/C1=CC=C(C=C1)NN1C(C2=CC=CC=C2C1=O)=O)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C24H14Cl3F3N2O2
reactant | hydrazine hydrate | 1.52 mmol, 0.076 g | O.NN
solvent | EtOH | 5 mL | CCO | C2H6O
product | (E)-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)phenyl)hydrazine | 0.08 g, 66% | FC(C(/C=C/C1=CC=C(C=C1)NN)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C16H12Cl3F3N2
